* Open-loop DC gain of ota5tv, unloaded vs loaded with a transdiode base.
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include ../cell/v2d_core.inc
VDD vdd 0 3.3
VE  ve  0 0.55
VINN inn 0 1.2
VINP inp 0 1.2
* A: unloaded
XA inp inn outa vdd ve ota5tv
* B: loaded by an NPN base, as in the cell (collector fed 0.5uA)
XB inp inn outb vdd ve ota5tv
IC vdd cb 0.5u
XQ cb outb ve 0 sky130_fd_pr__npn_05v5_W1p00L1p00
.control
set noaskquit
foreach d -0.001 0 0.001
  alter VINP dc = 1.2+$d
  op
  echo D $d
  print v(outa)
  print v(outb)
end
.endc
.end
